US04415572
8-Acetylamino-3,4-dihydrocarbostyril (11.8 g, 57.8 mols) was suspended in 90 ml of 20% hydrochloric acid and the suspension was stirred while heating under reflux for 1 hours. The reaction mixture was poured into ice water and neutralized with 5 N sodium hydroxide followed by adjusting to pH of about 8. Crystals which precipitated were collected by filtration to give 7.87 g of 8-amino-3,4-dihydrocarbostyril.

reactant | 8-Acetylamino-3,4-dihydrocarbostyril | 57.8 mols, 11.8 g | C(C)(=O)NC=1C=CC=C2CCC(NC12)=O | C11H12N2O2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | hydrochloric acid | 90 ml | Cl | ClH
product | 8-amino-3,4-dihydrocarbostyril | 7.87 g | NC=1C=CC=C2CCC(NC12)=O | C9H10N2O
